US07981874B2
To a solution of tert-butyl [2-[(4-nitrobenzoyl)amino]-4-(2-thienyl)phenyl]carbamate (598 mg, 1.36 mmol) in 1:1 EtOAc/THF was added 10 mol % Pd/C (136 mg, 1.36 mmol). The reaction mixture was evacuated and refilled with hydrogen (2×). The black reaction mixture was stirred in a parr shaker under 50 psi of hydrogen overnight. The mixture was filtered through a pad of celite (with EtOAc then CH2Cl2 washes) and concentrated to provide tert-butyl [2-[(4-aminobenzoyl)amino]-4-(2-thienyl)phenyl]carbamate which was confirmed by MS: cal'd 410.1 (MH+), exp 410.1 (MH+).

reactant | tert-butyl [2-[(4-nitrobenzoyl)amino]-4-(2-thienyl)phenyl]carbamate | 1.36 mmol, 598 mg | [N+](=O)([O-])C1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(OC(C)(C)C)=O)C=C1 | C22H21N3O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 1.36 mmol, 136 mg | [Pd] | Pd
solvent | EtOAc THF | CCOC(=O)C.C1CCOC1
product | tert-butyl [2-[(4-aminobenzoyl)amino]-4-(2-thienyl)phenyl]carbamate | NC1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(OC(C)(C)C)=O)C=C1 | C22H23N3O3S
